US04259338
16.4 g (0.05 mol) of 3-(2,3-dimethyl-7-bromo-5-benzofuranyl)-1,5-pentanediol are dissolved in 200 ml of pyridine. The solution is cooled to -8° to -10° and 8.5 ml (=12.6 g, 0.11 mol) of methanesulfonyl chloride are added dropwise at this temperature in the course of 30 minutes. The reaction mixture is allowed to react at -8° to -10° for 11/2 hours and is then poured onto 500 g of ice and the pH value is adjusted to about 1 by adding 5 N hydrochloric acid. This acid mixture is extracted 3 times with methylene chloride and the extracts are washed twice with 2 N hydrochloric acid and 3 times with water. The combined extracts are dried over sodium sulfate and the solvent is evaporated off under a waterpump vacuum. A crude product which crystallises spontaneously and has a melting point of 154°-156° is thereby obtained. Recrystallisation from methylene chloride/hexane gives 3-(2,3-dimethyl-7-bromo-5-benzofuranyl)-1,5-pentanediyl dimethanesulfonate as white crystals of melting point 158°-159°.

reactant | 3-(2,3-dimethyl-7-bromo-5-benzofuranyl)-1,5-pentanediol | 0.05 mol, 16.4 g | CC=1OC2=C(C1C)C=C(C=C2Br)C(CCO)CCO | C15H19BrO3
reactant | methanesulfonyl chloride | 0.11 mol, 8.5 ml, 12.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2,3-dimethyl-7-bromo-5-benzofuranyl)-1,5-pentanediyl dimethanesulfonate | CS(=O)(=O)OCCC(CCOS(=O)(=O)C)C=1C=C(C2=C(C(=C(O2)C)C)C1)Br | C17H23BrO7S2
